US07060827B2
In a manner similar to the preparation of N2,N4-bis(3,4-ethylenedioxyphenyl)-5-phenyl-2,4-pyrimidinediamine, N2,N4-bis(3,4-ethylenedioxyphenyl)-5-bromo-2,4-pyrimidinediamine and 3-chlorophenylboronic acid were reacted to yield N2,N4-bis(3,4-ethylenedioxyphenyl)-5-(3-chlorophenyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.77 (s, 1H), 7.45–7.41 (m, 2H), 7.38–7.33 (m, 2H), 7.09 (d, 1H, J=2.4 Hz), 7.01 (d, 1H, J=2.4 Hz), 6.92 (dd, 1H, J=2.4 and 9.0 Hz), 6.86 (dd, 1H, J=2.4 and 8.7 Hz), 6.74 (d, 1H, J=8.7 Hz), 6.67 (d, 1H, J=8.7 Hz), 4.21 (s, 4H), 4.19 (s, 4H); LCMS: ret. time: 27.18 min.; purity: 95%; MS (m/e): 490 (MH+).

reactant | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-phenyl-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)C2=CC=CC=C2 | C26H22N4O4
reactant | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-bromo-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)Br | C20H17BrN4O4
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-(3-chlorophenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)C2=CC(=CC=C2)Cl | C26H21ClN4O4
